Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Betadine Spray / adhesive tape
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ with PMH dementia, alpha strep 
endocarditis, COPD, prostate cancer, autonomic dysfunction, CAD 
who presented for the evaluation of syncope.  
 Per ED notes: On the day of admission, the patient's partner 
heard a thump and then the patient called her name. He was found 
in the bathroom on his side not complaining of pain. She called 
EMS who brought him to ___. He denies fevers/chills, chest 
pain, dyspnea, palpitations or dysuria. He denies any pain. Per 
patient's partner, the patient's baseline heart rate is in 
___. Also, he had work up for "mycobacterial infection of 
his lung" given abnormal chest imaging findings.  
 Patient does not remember the circumstances surrounding the 
fall. He denies any symptoms of chest pain or SOB at this time. 
His troponin is mildly elevated at 0.06. His EKG shows sinus 
bradycardia with IVCD in a RBBB like pattern and TWI anteriorly. 
Prior EKG is from over ___ years ago so difcult to use as 
comparison. Given his lack of symptoms and minor troponin 
elevation, this is more likely demand ischemia. Further, he is 
DNR/DNI and invasive procedures do not seem in line with his 
desired care.  
 In the ED initial vitals were: 96.9 47 134/42 18 98% RA 127  
 ECG: Irregular bradycardia, at a rate of 44. RBBB unchanged. AV 
delay PR 240 QRC 157 QTc 588 anterior TWI.  
 CXR showed possible pneumonia, started doxycycline given 
penicillin allergy and prolonged QTc.  
 CT head and spine did not show any fracture.  
 Physical exam: AAOx1, mentating at baseline, lying on side, 
comfortable. No facial trauma or pain on palpation. R pupil 
irregular, left reacts to light.  
 RRR no MRG.  
 No increased WOB, right sided crackles, left side clear. NTND.  

 GU: normal tone, guiac negative brown stool  
 Neuro: moves all extremeties, no facial asymmetry  
 MSK: no TTP, no instability or step offs on face, clavicles, 
chest wall or pelvis. Spine no TTP  
 Skin: abrasion left shoulder  
 Labs/studies notable for: elevated troponin to 0.06,  
 Patient was given: Atorvastatin, aspirin, doxycycline  
 The cardiology fellow was consulted. Given elevated trop at 
0.06 with anterior TWI, decision was to admit to ___ for 
NSTEMI. In the ED had sinus pauses on monitor ~2 seconds during 
his sleep. Also, prior to transfer patient had 2 episodes of 
bradycaria to the 30's during his sleep, these were thought to 
be vasovagal.  
 Vitals on transfer: 0 53 135/60 19 94% RA  
 On the floor, patient is unable to recall event. He denies F/C, 
N/V, SOB, Chest pain, abdominal pain, constipation. He does 
endorse dizziness.  

 
Past Medical History:
 1. CARDIAC RISK FACTORS - History of CAD: Moderate 
non-obstructive CAD, found on cardiac catheterization of 
___ - Hypertension  
 2. CARDIAC HISTORY - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY  
 AV endocarditis complicated by aortic insufficiency  
 Lung nodule  
 COPD  
 Bronchiectasis  
 "Bronchiolitis on imaging with extensive ___ opacities" 
c/f MAC  
 Dementia  
 Insomnia  
 Seborrheic keratosis  
 Actinic keratosis  
 Anxiety  
 Glaucoma  

 
Social History:
___
Family History:
 No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death. 
 
Physical Exam:
Admission physical exam:
=========================
VS: 97.9 PO 134 / 58 55 18 97 ra  
 GENERAL: NAD. Sleeping but easily rousable.  
 HEENT: NCAT. Sclera anicteric. R pupil deformity. Conjunctiva 
were pink, no pallor or cyanosis of the oral mucosa. No 
xanthelasma.  
 NECK: Supple no JVD  
 CARDIAC: Distant heart sounds. RRR, normal S1, S2. No 
murmurs/rubs/gallops noted.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Trace wheezes.  
 ABDOMEN: Soft, NTND.  
 Neuro: A&O to self, location, but not circumstances. He is 
moving all extremities and following commands.  
 EXTREMITIES: No c/c/e.  

Discharge physical exam:
=========================
VS: T 98.2, BP 128/59, HR 51, RR 18, SpO2 98/RA
Weight: 59.6 kg (admit wt: 62.7 kg)  
I/O: not recorded
Tele: sinus rhythm, intermittent pauses of ___ sec. Occasional 
PACs.
GENERAL: elderly gentleman, lying in bed. Very hard of hearing. 
NAD.   
CARDIAC: RRR, S1+S2, no M/R/G
LUNGS: CTAB, no W/R/C 
ABDOMEN: non-distended, soft, non-tender 
EXTREMITIES: WWP, no edema  

 
Pertinent Results:
Admission labs:
=================

___ 11:40AM BLOOD WBC-6.3 RBC-5.12 Hgb-14.3 Hct-45.5 MCV-89 
MCH-27.9 MCHC-31.4* RDW-15.5 RDWSD-50.3* Plt ___
___ 11:40AM BLOOD Glucose-119* UreaN-30* Creat-1.3* Na-140 
K-5.0 Cl-104 HCO3-25 AnGap-16
___ 11:40AM BLOOD cTropnT-0.06*
___ 06:54PM BLOOD CK-MB-4
___ 06:54PM BLOOD cTropnT-0.05*
___ 11:40AM BLOOD Albumin-3.6 Calcium-9.2 Phos-3.0 Mg-2.2

Discharge labs:
=================

___ 06:55AM BLOOD WBC-7.5 RBC-4.99 Hgb-14.1 Hct-43.8 MCV-88 
MCH-28.3 MCHC-32.2 RDW-15.2 RDWSD-48.8* Plt ___
___ 06:55AM BLOOD Glucose-91 UreaN-28* Creat-1.4* Na-144 
K-3.8 Cl-103 HCO3-26 AnGap-19

Imaging:
=================

CT head ___ 
1. No hemorrhage or fracture. 
2. Left frontal lobe white matter hypodensity with preserved 
overlying cortex is age indeterminate in the absence of a prior 
exam but favored chronic given well-defined gray-white 
differentiation.  Correlate with clinical assessment and if 
concern for acute stroke corresponding to this area of the 
brain, MRI could be considered as a more sensitive test. 
3. Probable sequelae of mild chronic small vessel ischemic 
disease. 
4. Cortical atrophy, likely age-related. 
  
CT C-spine ___
1. No evidence of cervical spine fracture. 
2. Multilevel degenerative changes, progressed since ___ with 
multiple levels of central disc bulges indenting the anterior 
thecal sac. 
3. Status post C4-C5 anterior spinal fusion without definite 
evidence of 
hardware complication. 
4. Thickened upper esophageal wall could be sequelae of chronic 
esophagitis and reflux in the appropriate clinical situation. 
  
CXR ___
1. Right middle lobe pneumonia.  Follow-up radiograph after 
treatment to 
ensure resolution. 
2.  Findings suggestive of volume overload and/or heart failure 
with small 
pleural effusion, mild cardiomegaly, and mild interstitial 
edema. 
3.  Low lung volumes and by basilar atelectasis. 

 
Brief Hospital Course:
___ with dementia, non-obstructive CAD, who presents following 
unwitnessed syncopal episode, found to be bradycardic with sinus 
pauses on arrival.

#BRADYCARDIA:
#SINUS PAUSES:  
#FALL: pt has history of bradycardia, and appears to have 
baseline HR in ___ range. The exact nature of his 
fall/syncopal event is unclear (including any transient LOC), 
but suspect it was syncopal in the setting of long pause and/or 
symptomatic bradycardia. Pt is largely asymptomatic now, though 
continues to have pauses ___ sec on telemetry. Pt's 
condition/management options discussed with HCP/partner, who is 
clear that the patient would not want an invasive procedure (has 
this in writing in living will), such as a pacemaker. Not on any 
bradycardia-inducing medications. No further intervention to 
make on this issue. Patient was evaluated by ___, who recommended 
rehab for the patient.

#NSTEMI: Given his lack of symptoms and minor troponin elevation 
(peaked at 0.06 and subsequently downtrended), this was more 
likely demand ischemia, potentially in the setting of 
bradycardia/sinus pauses. Continued home aspirin 81mg.

#?PNA: CXR on admission showed "increased opacity in the area of 
the right middle lobe on the lateral view may suggest a 
component of infection in the appropriate clinical situation.". 
Given one dose of doxycycline in ED, given pt's penicillin 
allergy and prolonged QTc (as opposed to levo, given QTc 500s). 
However, patient is without fever, cough, SOB, or leukocytosis - 
all making PNA less likely. It was decided not to continue 
antibiotics; pt did not develop any further signs or symptoms of 
PNA.

#LOW-NORMAL EF: LVEF 50% in ___. Is on Lasix at home. CXR w/ 
some e/o volume overload but no edema or crackles; otherwise 
appeared euvolemic on exam. Continued home furosemide 20mg 
daily.
 
#DEMENTIA: unclear what type of dementia patient has. Baseline 
mental status - some confusion, poor memory but able to speak 
and follow commands. Avoided deliriogenic medications and 
managed with delirium precautions while admitted.  

#COPD: Mild wheeze on presentation with forceful expiration. No 
SOB or cough to suggest exacerbation. Continued home 
Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID.

#GLAUCOMA: Continued home Dorzolamide 2%/Timolol eye drops. 

#GERD: CT from admission (trauma work-up) with "Thickened upper 
esophageal wall could be sequelae of chronic esophagitis and 
reflux." Continued home omeprazole 20mg daily.

# Goals of care: patient, health care proxy (partner ___, and 
daughter have been very clear that he would not want aggressive 
measures such as CPR, invasive procedures, dialysis, artificial 
nutrition/hydration, or re-hospitalization unless needed for 
comfort. MOLST form was filled out to document this. 

TRANSITIONAL ISSUES
===================
[ ] Pt is at increased risk of falls and syncope, given known 
bradycardia/sinus pauses and decision not to treat with 
pacemaker.
[ ] Nodal-blocking agents should be avoided in this patient.
[ ] consider palliative care referral as outpatient
# CODE: DNR/DNI (no re-hospitalization unless needed for 
comfort). MOLST form completed.
# CONTACT: HCP Dr. ___ (partner, used to work as 
___) ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
4. Furosemide 20 mg PO DAILY 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
6. Omeprazole 20 mg PO DAILY 
7. TraZODone 50 mg PO QHS 
8. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
9. Aspirin 81 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. lutein 20 mg oral DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 8.6 mg PO BID:PRN constipation  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath  
5.  Aspirin 81 mg PO DAILY  
6.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID  
7.  Escitalopram Oxalate 10 mg PO DAILY  
8.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
9.  Furosemide 20 mg PO DAILY  
10.  lutein 20 mg oral DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
13.  Omeprazole 20 mg PO DAILY  
14.  TraZODone 50 mg PO QHS  
15.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  
16.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Sinus bradycardia with pauses
Non-ST elevation myocardial infarction
Coronary artery disease
Dementia

 
Discharge Condition:
Mental Status: Clear and coherent, though poor recall/memory.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
WHY WERE YOU ADMITTED TO THE HOSPITAL?
You fainted at home and were found to have a very slow heart 
beat.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- Your heart rate and rhythm were monitored.
- We decided with you and ___ that you would not get a 
pacemaker.
- You were seen by our physical therapy team, who felt it would 
be most beneficial for you to go to rehab.
- Your health care proxy filled out a MOLST form documenting 
your end of life decisions

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
- You will go to rehab to get stronger.
- Continue to take all of your medicines as prescribed.
 
Followup Instructions:
___